Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Persistent headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year-old R-handed woman, who presents 
with
headache to outside hospital, where she was found to have a left
6 mm cerebellar hyperdensity on noncontrast ___ CT.
 
She was in her usual state of health, when 4 days ago, she had a
gradual onset of a dull headache (ranging ___ currently
___.  It is located on the top of her ___ radiating down to
the her left neck.  She has photophobia, no phonophobia, nausea,
or vomiting.  This was constant for the last 4 days, but she had
some relief with Tylenol, which she took about 4 a day for the
last 4 days.  She was able to sleep with the headache, but they
did wake her from sleep.  She denied any changes in headache 
with
position changes or with Valsalva maneuvers.  Recently she has
not had any headaches, but in her ___ she used to get headaches
frequently, and they would resolve with aspirin.

Yesterday she developed a dull pleuritic chest pain, which she
attributed to lifting from the holidays.  Also notes 
intermittent
blurry vision, but denies any presently.

She presented to an outside hospital, where she had a 
noncontrast
___ CT notable for a left cerebellar hyperdensity, which is
nonspecific, and could be calcification versus petechial
hemorrhage.  For the chest pain she had a negative troponin and 
a
CT PE to rule out PE. As petechial hemorrhage was on
differential,  She was transferred for to ___ for
neurosurgical evaluation.  Neurosurgery recommended neurology
evaluation.

Per chart review, she has a neurologist at ___.  She was
previously on Coumadin for her for DVT treatment, but she
developed subarachnoid hemorrhages, so she was taken off of
Coumadin.  She takes a daily aspirin. Of note,  She has had an
MRI in ___, notable for scattered T2 hyperintensities,
particularly at left cerebellar hemisphere, thought to be
secondary to gliotic changes from microvascular disease, but
otherwise normal MRI MRA.

On neuro ROS, the pt denies loss of vision,  diplopia,
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus or
hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the pt endorses dry cough.  Denies
recent fever or chills.  No night sweats or recent weight loss 
or
gain. Denies shortness of breath.  Denies palpitations.  Denies
nausea, vomiting, diarrhea, constipation or abdominal pain.  No
recent change in bowel or bladder habits.  No dysuria.  Denies
arthralgias or myalgias. Denies rash.

 
Past Medical History:
Per patient: new diagnosis of Lupus 
Per Chart Review: 
  Arthralgia of multiple joints 
  PANIC ATTACKS 
 COPD (chronic obstructive pulmonary disease) 
  High cholesterol 
  Cervical high risk human papillomavirus (HPV) DNA test 
positive

 PBC (primary biliary cirrhosis) 
  History of squamous cell carcinoma(mid abdomen ___ 
  Family history of diabetes mellitus 
  Celiac disease 
 Chronic inflammatory arthritis 
 SAH (subarachnoid hemorrhage) 
  ___'s periarthritis syndrome 
  Anti-cardiolipin antibody syndrome (not on anticoagulation ___
SAH on Coumadin for a DVT) 
  Dementia 
  Seronegative Inflammatory arthritis 
  Current tobacco use 
  Long term current use of systemic steroids 
 
Social History:
___
Family History:
Father  CAD/PVD; Headache/Migraine 
Mother  ___ - Type II; Glaucoma 
Sister  ___ 
 
Physical Exam:
==============
ADMISSION EXAM
==============
Physical Exam:
Vitals: T: 96.8 P: 64 r: 16  BP: 124/78 SaO2: 95% room air
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus, MMM, no lesions noted in
oropharynx
Pulmonary: Breathing comfortable on room air
Cardiac: RRR
Abdomen: soft
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Mildly inattentive, declines MOYB, but able
to name ___ backward without difficulty. Language is fluent with
intact repetition and comprehension. Normal prosody. There were
no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
not tested as patient does not have her usual glasses.
Fundoscopic exam revealed no papilledema, exudates, or
hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick,  proprioception
throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   0
R  2  2    2    1   0
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

==============
DISCHARGE EXAM
==============
Essentially unchanged. Normal. 
 
Pertinent Results:
====
LABS
====
___ 04:30AM BLOOD WBC-12.4* RBC-4.21 Hgb-12.8 Hct-39.6 
MCV-94 MCH-30.4 MCHC-32.3 RDW-13.2 RDWSD-45.2 Plt ___
___ 05:05AM BLOOD WBC-9.3 RBC-4.27 Hgb-12.9 Hct-40.8 MCV-96 
MCH-30.2 MCHC-31.6* RDW-13.7 RDWSD-47.8* Plt ___
___ 04:30AM BLOOD Neuts-52.0 ___ Monos-6.3 Eos-1.5 
Baso-0.1 Im ___ AbsNeut-6.43* AbsLymp-4.90* AbsMono-0.78 
AbsEos-0.18 AbsBaso-0.01
___ 04:30AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 05:27AM BLOOD ___ PTT-24.3* ___
___ 04:30AM BLOOD Glucose-90 UreaN-11 Creat-0.5 Na-142 
K-3.6 Cl-105 HCO3-24 AnGap-17
___ 05:05AM BLOOD Glucose-91 UreaN-14 Creat-0.6 Na-141 
K-3.5 Cl-101 HCO3-26 AnGap-18
___ 04:30AM BLOOD cTropnT-<0.01
___ 04:30AM BLOOD Calcium-8.9 Phos-3.4 Mg-2.1
___ 05:05AM BLOOD Calcium-8.8 Phos-4.3 Mg-2.0
___ 05:05AM BLOOD %HbA1c-6.0 eAG-126
___ 04:30AM BLOOD ASA-NEG Acetmnp-5* Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 10:30AM URINE Color-Straw Appear-Clear Sp ___
___ 10:30AM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 10:30AM URINE RBC-4* WBC-<1 Bacteri-FEW Yeast-NONE 
Epi-<1
___ 10:30AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

=======
IMAGING
=======
- ___ CT ___ WO Contrast
1. Unchanged 5 mm left cerebellar hyperdensity compared to 
outside hospital CT ___ from approximately 7 hours prior.  
While this may represent petechial hemorrhage, recommend MRI for 
further evaluation as this may represent underlying cavernoma or 
other lesion. 
2. No interval change from outside hospital CT examination. 

- ___ MR ___ MRA Brain WO Contrast; MRV ___ WO 
Contrast
1. Non-specific T2 hyperintense, vaguely enhancing 6mm focus 
within the left cerebellar hemisphere may represent a 
developmental venous anomaly with associated capillary 
telangectasia.  Correlation with prior imaging is recommended to 
document stability.  Furthermore, imaging follow-up should be 
performed to exclude a more worrisome lesion given the presence 
of enhancement. 
2. No acute infarct or hemorrhage. 
3. No evidence of venous sinus thrombosis. 
4. Unremarkable MRA of the ___. 

RECOMMENDATION(S):  Recommend correlation with prior imaging.  
Ongoing imaging follow-up should be performed to exclude a more 
worrisome lesion given the presence of enhancement. 
 
Brief Hospital Course:
Ms. ___ is a ___ year-old woman with a history of 
anti-cardiolipin syndrome not on
anticoagulation, prior DVT, prior SAH when on anticoagulation; 
who was admitted for symptoms of persistent headache with 
photophobia for 4 days and found to have a left cerebellar 
density on CT scan concerning for a small hemorrhage. Further 
imaging with MRI, and review of prior records, suggested that 
this finding was most likely a developmental venous abnormality, 
and likely not related to her headache. The headache improved 
during admission. She had received a chemo infusion of belimumab 
(Benlysta) for her lupus on the day prior to headache onset. 
There is a 5% incidence of migraine with this medication, per 
discussion with her rheumatologist (Dr. ___. 
She will undergo a repeat MRI with contrast in 3 months to 
evaluate if there is progression of the likely venous anomaly, 
and she will follow-up with stroke neurology (Dr. ___ after 
this in ___. No changes to her medication regimen were 
made. She was recommended to use heating pads for her 
significant neck muscle tension, and was given a prescription 
for outpatient ___ for neck pain. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 0.5 mg PO TID:PRN Anxiety 
2. Pravastatin 20 mg PO QPM 
3. Ranitidine 150 mg PO BID 
4. Leucovorin Calcium 5 mg PO TID:PRN Unknown 
5. Fish Oil (Omega 3) 1000 mg PO DAILY 
6. FoLIC Acid 2 mg PO DAILY 
7. Senna with Docusate Sodium (sennosides-docusate sodium) 
17.2-100 mg oral BID 
8. PredniSONE 5 mg PO DAILY 
Tapered dose - DOWN 
9. Loratadine 10 mg PO DAILY 
10. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB 
11. TraMADol 100 mg PO Q8H:PRN Pain - Moderate 
12. Ursodiol 500 mg PO BID 
13. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB  
2.  ALPRAZolam 0.5 mg PO TID:PRN Anxiety  
3.  Aspirin 81 mg PO DAILY  
4.  Fish Oil (Omega 3) 1000 mg PO DAILY  
5.  FoLIC Acid 2 mg PO DAILY  
6.  Leucovorin Calcium 5 mg PO TID:PRN Unknown  
7.  Loratadine 10 mg PO DAILY  
8.  Pravastatin 20 mg PO QPM  
9.  PredniSONE 5 mg PO DAILY 
Tapered dose - DOWN  
10.  Ranitidine 150 mg PO BID  
11.  Senna with Docusate Sodium (sennosides-docusate sodium) 
17.2-100 mg oral BID  
12.  TraMADol 100 mg PO Q8H:PRN Pain - Moderate  
13.  Ursodiol 500 mg PO BID  
14.Outpatient Physical Therapy
Neck ultrasound; ___ for neck pain

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Headache

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 
You were admitted for symptoms of persistent headache and found 
to have a density on your CT scan concerning for a brain bleed. 
Further imaging with MRI, and review of prior records, suggested 
that this finding was most likely a congenital venous 
abnormality. No changes to your medication regimen were made. 
You were recommended to use heating pads for your significant 
neck muscle tension. 

You will follow-up with MRI in 3 months, and an appointment with 
Dr. ___ in ___ (see below). 

Thanks you, 
Your ___ Neurology Team
 
Followup Instructions:
___